US04640916
To a suspension of 3.0 g of 2-ethoxycarbonyl-2H-1,4-benzothiazin-3(4H)-one in ethanol (50 ml) was added portionwise 0.95 g of sodium borohydride with stirring at room temperature. After stirring for 2 hours, the mixture was diluted with water, made acidic with acetic acid, and extracted with ether. The ether layer was washed with water, dried (MgSO4), and then concentrated under reduced pressure. The residue was washed with hexane to obtain 1.25 g (50.8%) of 2-hydroxymethyl-2H-1,4-benzothiazin-3(4H)-one as crystals. Recrystallization from ethyl acetate gave prisms, m.p. 156°-157° C.

reactant | 2-ethoxycarbonyl-2H-1,4-benzothiazin-3(4H)-one | 3.0 g | C(C)OC(=O)C1SC2=C(NC1=O)C=CC=C2 | C11H11NO3S
reactant | sodium borohydride | 0.95 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-hydroxymethyl-2H-1,4-benzothiazin-3(4H)-one | 1.25 g, 50.8% | OCC1SC2=C(NC1=O)C=CC=C2 | C9H9NO2S
